US07132426B2
Preparation of 4-[8-(4-Isopropoxy-phenyl)-quinolin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound F4)
In a 25 mL round-bottomed flask equipped with a reflux condenser and N2 inlet septum was placed a stir bar, 4-(8-chloro-quinolin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (200 mg, 0.57 mmol), 4-isopropoxyphenylboronic acid (304 mg, 1.7 mmol), 2M sodium carbonate (0.6 mL) and toluene (4 mL). The mixture was degassed for a few minutes. Tetrakis(triphenylphosphine) palladium (98 mg, 0.085 mmol) was added to the above mixture. The reaction mixture was refluxed overnight under N2. The resulting mixture was diluted with ethyl acetate and extracted with H2O. The organic extract was dried and concentrated to give the crude product. The crude product was purified by column chromatography to using 50% EtOAc/Hexane and preparative HPLC to give the desired product. 1H NMR (CDCl3, 400 MHz) δ 1.28 (d, 6H), 1.39 (d, 6H), 2.03 (m, 2H), 2.17 (m, 2H), 3.59 (m, 2H), 3.85 (m, 2H), 4.63 (m, 1H), 4.97 (m, 1H), 5.12 (m, 1H), 7.04 (s, 1H), 7.22 (d, 1H), 7.37 (d, 2H), 7.81 (t, 1H), 7.90 (d, 1H), 8.36 (d, 1H), 9.06 (d, 1H). Exact mass calculated for C27H32N2O4 448.24, found 449.4 (MH+).

reactant | 4-(8-chloro-quinolin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 0.57 mmol, 200 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=CC=NC2=C(C=CC=C12)Cl | C18H21ClN2O3
reactant | 4-isopropoxyphenylboronic acid | 1.7 mmol, 304 mg | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | sodium carbonate | 2M, 0.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium | 0.085 mmol, 98 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[8-(4-Isopropoxy-phenyl)-quinolin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=CC=NC2=C(C=CC=C12)C1=CC=C(C=C1)OC(C)C | C27H32N2O4
